* top2
.tran 1n 5m
Vin in 0 48
M1 in gate sw1 0 NMOS W=3 L=1
M2 in gate2 sw2 0 NMOS W=3 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 250u
L2 sw2 out 250u
C1 out 0 1.286u
Rload out 0 0.682
Vgate gate 0 PULSE(0 48 0 1n 1n 1e-06 1e-05)
Vgate2 gate2 0 PULSE(0 48 1e-05 1n 1n 1e-06 1e-05)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.probe V(*) I(*)
.end
